US08207172B2
Step 4. Preparation of (8E)-4-({3-chloro-4-[(6-methylpyridin-2-yl)methoxy]phenyl}amino)-8-[(dimethylamino)methylene]-5,8-dihydro[1]benzothieno[2,3-d]pyrimidin-7(6H)-one
The title compound was prepared following the method described for example 98 step 4, utilizing 4-({3-chloro-4-[(6-methylpyridin-2-yl)methoxy]phenyl}amino)-5,8-dihydro[1]benzothieno[2,3-d]pyrimidin-7(6H)-one (435 mg, 1.0 mmol) and dimethylformamide-dimethylacetal (230 mg, 1.9 mmol). The desired product was collected as a yellow solid (302 mg, 62%). 1H-NMR (DMSO-d6) (major rotomer) δ 8.26 (s, 1H), 8.18 (s, 1H), 7.75 (d, 1H), 7.72 (d, 1H), 7.51 (dd, 1H), 7.34 (d, 1H), 7.21 (d, 1H), 7.18 (d, 1H), 7.07 (s, 1H), 5.21 (s, 2H), 3.27 (t, 2H), 3.12 (s, 3H), 3.09 (s, 3H), 2.57 (t. 2H); LCMS RT=2.38 min; [M+H]+=506.1.

reactant | 4-({3-chloro-4-[(6-methylpyridin-2-yl)methoxy]phenyl}amino)-5,8-dihydro[1]benzothieno[2,3-d]pyrimidin-7(6H)-one | 1.0 mmol, 435 mg | ClC=1C=C(C=CC1OCC1=NC(=CC=C1)C)NC=1C2=C(N=CN1)SC1=C2CCC(C1)=O | C23H19ClN4O2S
reactant | dimethylformamide-dimethylacetal | 1.9 mmol, 230 mg | COC(N(C)C)OC | C5H13NO2
product | (8E)-4-({3-chloro-4-[(6-methylpyridin-2-yl)methoxy]phenyl}amino)-8-[(dimethylamino)methylene]-5,8-dihydro[1]benzothieno[2,3-d]pyrimidin-7(6H)-one | ClC=1C=C(C=CC1OCC1=NC(=CC=C1)C)NC=1C2=C(N=CN1)SC/1=C2CCC(\C1=C/N(C)C)=O | C26H24ClN5O2S
